US06800629B2
In 15 mL of acetonitrile was dissolved 0.3 g of methyl 3-chloro-2-pyrazinecarboxylate. At an ice-cooled temperature, 10% fluorine gas (a fluorine gas diluted with nitrogen gas) was introduced at a rate of 45 ml per minute for a period of 18 minutes. Then, while elevating the temperature from the ice-cooled temperature to room temperature, nitrogen gas was introduced for one hour, and the reaction product was concentrated under reduced pressure. The oily product thus obtained was purified by silica gel column chromatography (eluent: n-hexane:ethyl acetate=10:1] to obtain 0.03 g of methyl 3-chloro-6-fluoro-2-pyrazinecarboxylate as a colorless oily product.

reactant | methyl 3-chloro-2-pyrazinecarboxylate | 0.3 g | ClC=1C(=NC=CN1)C(=O)OC | C6H5ClN2O2
reactant | fluorine | FF | F2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | methyl 3-chloro-6-fluoro-2-pyrazinecarboxylate | 0.03 g | ClC=1C(=NC(=CN1)F)C(=O)OC | C6H4ClFN2O2
